US09278915B2
Compound 69: (4-{4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-3-methyl-1,2-oxazol-5-yl)acetic acid
To a 25 mL RB flask fitted with magnetic stirrer was charged with tetrahydrofuran (5 mL). To the stirred solvent were added Methyl (4-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-3-methyl-1,2-oxazol-5-yl)acetate (0.47 g, 0.94 mmol), methanol (3 mL) and lithium hydroxide (0.07 g, 0.94 mmol) in water (3 mL). After addition, the reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated to distill off the solvent; the crude was washed with diethyl ether (5 mL). Water (1 mL) was added and the aqueous layer was acidified with saturated citric acid solution to make pH 6. The aqueous layer was extracted with ethyl acetate (5 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as white solid (0.32 g, yield: 70.2%).

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | Methyl (4-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-3-methyl-1,2-oxazol-5-yl)acetate | 0.94 mmol, 0.47 g | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C=2C(=NOC2CC(=O)OC)C)C=C1)\C1=CC=CC=C1 | C29H28N2O6
reactant | methanol | 3 mL | CO | CH4O
reactant | lithium hydroxide | 0.94 mmol, 0.07 g | [OH-].[Li+]
solvent | water | 3 mL | O | H2O
product | (4-{4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-3-methyl-1,2-oxazol-5-yl)acetic acid | 0.32 g, yield: 70.2% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C=2C(=NOC2CC(=O)O)C)C=C1)\C1=CC=CC=C1 | C28H26N2O6
